* D:\Education\Phys3330\Spring2013\FinalProject\HapticGlove\Schematics\FlexOpAmp.asc
XU2 P001 UE_Fixed_DC V=15
XU3 P002 UE_Fixed_DC V=-15
R N001 N002 100k
R§FlexSens N001 0 50k
V§FGen N005 0 SINE(0 900mV 1k)
XLED N002 N007 Yellow
XLF356a N005 N001 P001 P002 N002 LF356
XU1 P003 UE_Fixed_DC V=15
XU4 P004 UE_Fixed_DC V=-15
R1 N003 N004 100k
R§FlexSens1 N003 0 20k
V§FGen1 N006 0 SINE(0 900mV 1k)
XLED1 N004 P005 Yellow
XLF356b N006 N003 P003 P004 N004 LF356
R2 N007 0 50
R3 P005 0 50
;op
.lib LF356.sub
.tran .05
* Flex Sensor\n range ~20k at rest, \n>50k when flexed.
* Flex Sensor\n range ~20k at rest, \n>50k when flexed.
* NO BEND
* BEND
.lib UE_Base.lib
.lib UE_LED.lib
.backanno
.end
